US05389641
24b) 5-Cyano-4-(p-tolyl)pyrimidine
A mixture of 5-bromo-4-(p-tolyl)pyrimidine (10 g, 40.2 mmol) and cuprous cyanide (4.4 g, 44.2 mmol) in DMF (20 ml) was heated under reflux for 3 hours. To the reaction mixture was added a solution of ferric chloride. 6 hydrate (13 g, 48.2 mmol) in a mixture of hydrochloric acid (7 ml) and water (55 ml) and the mixture was heated at 50° C. for 10 minutes. After the reaction solution was taken up in ethyl acetate and water, the mixture was extracted with ethyl acetate. The extract was washed with water and concentrated to dryness. The residue was purified by column chromatography on silica gel to give a crystalline product. Recrystallization from isopropyl ether-hexane afforded colorless needles (5 g, 64%), m.p. 127°-128° C.

reactant | 5-bromo-4-(p-tolyl)pyrimidine | 40.2 mmol, 10 g | BrC=1C(=NC=NC1)C1=CC=C(C=C1)C | C11H9BrN2
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | hydrochloric acid | 7 ml | Cl | ClH
solvent | water | 55 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Cyano-4-(p-tolyl)pyrimidine | C(#N)C=1C(=NC=NC1)C1=CC=C(C=C1)C | C12H9N3
